US05925635
A solution of methyl-2-cyanobenzoate (10 g, 62.11 mmol) in ethyl ether (300 mL) was added dropwise to a slurry of lithium aluminum hydride in ethyl ether (200 mL). After the addition was complete, more ether was added (200 mL) and the mixture heated at reflux for 2 h. The cooled reaction mixture was quenched by careful addition of succesive amounts of water (7.1 mL), 1N sodium hydroxide solution (7.1 mL) and water (21.3 mL). The reaction was filtered and evaporated to give 6.96 g (50.8 mmol) of 2-(aminomethyl)benzyl alcohol. This material was carried on without further purification.

reactant | methyl-2-cyanobenzoate | 62.11 mmol, 10 g | COC(C1=C(C=CC=C1)C#N)=O | C9H7NO2
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | ethyl ether | 300 mL | C(C)OCC | C4H10O
solvent | ethyl ether | 200 mL | C(C)OCC | C4H10O
solvent | ether | CCOCC | C4H10O
product | 2-(aminomethyl)benzyl alcohol | 50.8 mmol, 6.96 g | NCC1=C(CO)C=CC=C1 | C8H11NO
